US06548495B2
7-Morpholin-4-yl-4-(3-pyrazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-morpholin-4-yl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester (Example M32) (322 mg, 0.56 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (146 mg).

reactant | {5-morpholin-4-yl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | 0.56 mmol, 322 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O)=O | C28H30F3N5O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Morpholin-4-yl-4-(3-pyrazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1(CCOCC1)C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=CC=C2)=O)C=C1C(F)(F)F | C23H20F3N5O2
